US07662572B2
4′-amino-(1,1′-Biphenyl)-4-carbonitrile is dissolved in dimethyl formamide. Sodium hydride is added to the solution followed by 4-bromo-1-hydroxybutane to provide 4′-(4-hydroxybutylamino)-(1,1′-Biphenyl)-4-carbonitrile. 4′-(4-hydroxybutylamino)-(1,1′-Biphenyl)-4-carbonitrile is suspended in dichloromethane.

reactant | 4′-amino-(1,1′-Biphenyl)-4-carbonitrile | NC1=CC=C(C=C1)C1=CC=C(C=C1)C#N | C13H10N2
reactant | Sodium hydride | [H-].[Na+]
reactant | 4-bromo-1-hydroxybutane | BrCCCCO | C4H9BrO
solvent | dimethyl formamide | CN(C=O)C | C3H7NO
product | 4′-(4-hydroxybutylamino)-(1,1′-Biphenyl)-4-carbonitrile | OCCCCNC1=CC=C(C=C1)C1=CC=C(C=C1)C#N | C17H18N2O
